Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hypothermia, altered mental status, dehydration
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with no significant past medical history,
presenting from the ___ with hypothermia and
dehydration. 

Patient participated in the ___ Marathon today and at Mile 
20,
he started feeling lightheaded. He reports that he was hydrating
himself aggressively throughout the race. He continued to feel
unwell which lead him to stop at mile 24 to be evaluated. He was
hyperthermic in the field and received 2 ice baths. He started
shivering and developed AMS. He reports that he was aware of his
surroundings but was unable to respond to questioning at times.
He then presented to the ED where he was noted to be hypothermic
(rectal temp of 95, tachycardic, shivering, and still altered.
Warm blankets and a bear hugger were placed on the patient.
Patient's mental status markedly improve upon warming. Labs were
notable for an elevated creatinine and elevation in his CK. The
patient received 3 L of crystalloid. 

- Labs were notable for:
Fingerstick 87
Na 150-->148 K 4.7 HCO3 12-->21 Cr 1.8-->1.4
CK ___
Ca ___ p 1.2
WBC 13.9 Hg 17.1

- Studies were notable for:
EKG notable for LVH, prolonged QTc

- The patient was given:
Diazepam 5mg
Zofran 4mg IV once
3L IVF
Neutra-Phos 1 PKT

On arrival to the floor, patient reports that he feels much
improved. He also hadn't eaten in hrs and felt better after
eating. Denies feeling confused but has a mild HA. He reports
that he has leg cramping in the field in the ice bath but
currently just feels sore. He has urinated twice since 
presenting
to the ED and both times the urine was yellow.
 
Past Medical History:
None
 
Social History:
___
Family History:
No family hx of cardiac disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 2220 Temp: 97.8 PO BP: 148/90 HR: 73 RR: 18 O2
sat: 100% O2 delivery: ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: WWP, no edema
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. ___ strength
throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM:
========================
___ 0413 Temp: 97.6 PO BP: 123/67 L Lying HR: 61 RR: 19 O2
sat: 97% O2 delivery: Ra 
Fluid Balance (last updated ___ @ 644) 
  Last 8 hours Total cumulative -1528ml
    IN: Total 1922ml, IV Amt Infused 1922ml
    OUT: Total 3450ml, Urine Amt 3450ml
  Last 24 hours Total cumulative -2690ml
    IN: Total 7560ml, PO Amt 1600ml, IV Amt Infused 5960ml
    OUT: ___ 10250ml, Urine ___ 10250ml

GENERAL: Awake and alert, Ambulating in the hall. NAD
HEENT: AT/NC, anicteric sclera. MMM.
CARDIAC: Regular rate and rhythm. Audible S1/S2. No
murmurs/rubs/gallops.
LUNGS: CTAB. No wheezes, rhonchi or rales. No increased WOB.
ABDOMEN: Normoactive bowels sounds, non distended, non-tender to
palpation in all quadrants. No organomegaly. Negative ___
sign.
GI/GU: No CVA tenderness.
EXTREMITIES: trace L>R ___ edema to the ankles, pulses 2+
bilaterally.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. ___ strength
throughout. Face symmetric.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:40PM BLOOD WBC-13.9* RBC-5.28 Hgb-17.1 Hct-48.8 
MCV-92 MCH-32.4* MCHC-35.0 RDW-11.3 RDWSD-38.4 Plt ___
___ 01:40PM BLOOD Neuts-71.8* Lymphs-17.9* Monos-8.8 
Eos-0.4* Baso-0.5 Im ___ AbsNeut-10.02* AbsLymp-2.49 
AbsMono-1.22* AbsEos-0.05 AbsBaso-0.07
___ 01:40PM BLOOD Glucose-96 UreaN-19 Creat-1.8* Na-149* 
K-4.7 Cl-109* HCO3-12* AnGap-28*
___ 01:40PM BLOOD CK(CPK)-588*
___ 01:40PM BLOOD Calcium-11.7* Phos-1.2* Mg-2.0
___ 11:19PM BLOOD ___ pO2-54* pCO2-44 pH-7.35 
calTCO2-25 Base XS--1

___ 11:25PM URINE Color-Straw Appear-Clear Sp ___
___ 11:25PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

PERTINENT LABS:
===============
___ 04:10PM BLOOD CK(CPK)-915*
___ 08:16PM BLOOD ___ 11:09PM BLOOD CK(CPK)-2887*
___ 07:20AM BLOOD CK(CPK)-4636*
___ 01:00PM BLOOD CK(CPK)-5219*

DISCHARGE LABS:
===============
___ 06:55AM BLOOD WBC-5.5 RBC-3.76* Hgb-12.0* Hct-35.6* 
MCV-95 MCH-31.9 MCHC-33.7 RDW-11.9 RDWSD-41.2 Plt ___
___ 06:55AM BLOOD Glucose-94 UreaN-8 Creat-0.8 Na-147 K-4.2 
Cl-111* HCO3-27 AnGap-9*
___ 06:55AM BLOOD CK(CPK)-3241*
___ 06:55AM BLOOD Calcium-9.0 Phos-3.3 Mg-1.___ year old male with no significant past medical history who 
was brought in from the ___ Marathon with hypothermia after 
ice baths for hyperthermia, altered mental status, and 
dehydration. He was found to have ___ and CK elevation 
concerning for rhabdomyolysis, as well as electrolyte 
abnormalities.

ACUTE ISSUES:
=============
# Rhabdomyolysis:
# Leukocytosis, resolved:
# ___, resolved:
Patient presented with initial CK 588 that peaked at 5219, and 
Cr 1.8 in the setting of running 24 miles in the ___ 
Marathon, overall concerning for rhabdomyolysis. He also had an 
initial WBC 13.9, likely in the setting of inflammation and/or 
stress-reaction. He received 3L IVF in the ED, and an additional 
1L bolus of LR upon arrival to the floor. He was then started on 
mIVF at 250cc/hr with adequate UOP. His ___ resolved, with Cr 
0.8 at discharge. His CK downtrended to 3241 by discharge. 
Clinically, he is complaining of mild leg soreness, but 
otherwise feels back to baseline.

# Anemia:
Initially with H/H 17.1/48.8 now down to 12.0/35.6 following 4L
IVF bolus and continuous IVF @ 250cc/hr for > 24h. Likely 
dilutional. No overt e/o bleeding.

RESOLVED ISSUES:
================
# Hypercalcemia:
# Hypernatremia:
Patient presented with initial Ca ___ and Na 149, likely due to 
dehydration in the setting of running in the ___. He 
received aggressive rehydration with IVF per above, and Ca and 
Na normalized prior to discharge.

# AGMA:
Patient initially presented with bicarb 12 and AG 28. Likely in 
the setting ___ per above, and potentially lactic acidosis 
(unfortunately no lactate on file prior to IVF). Acidosis 
resolved after aggressive IVF resuscitation. 

# Toxic metabolic encephalopathy:
# Hypothermia:
Patient presented with mild altered mental status, likely in the 
setting of his hypothermia. Resolved with rewarming with bear 
hugger.

# Prolonged QTc:
No baseline EKG. Initial QTc 510 with repeat 470 the following 
day.

TRANSITIONAL ISSUES:
===================
DISCHARGE CK: 3241
DISCHARGE CR: 0.8

[ ] Please repeat CK, Chem10, CBC at follow up appointment to 
ensure stable CBC and renal function/electrolytes and 
downtrending CK.

Time spent coordinating discharge > 30 minutes

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
-Rhabdomyolysis

SECONDARY DIAGNOSIS
-Acute kidney injury 
-Toxic Metabolic Encephalopathy 
-Hypercalcemia
-Hypernatremia

 
Discharge Condition:
Mental Status: Alert and oriented x3
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because your body 
temperature dropped after the ice bath, and you were confused.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were warmed in the ED until your body temperature returned 
to normal.
- You were given a lot of IV fluids, which helped your kidneys 
recover. Your electrolytes also returned to normal.
- Your CK, which is a marker of muscle breakdown, is now coming 
down after the fluids as well.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
- Please attend all of your follow up appointments as scheduled. 
It is important that you get repeat bloodwork at your next 
appointment to ensure improvement in your labs.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___